US06329382B1
Preparation of 3-cyano-8-cyclopentyl-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine-5-carboxylic acid (Compound 8):
To 10.00 g (30.73 mmol) of ethyl 3-cyano-8-cyclopentyl-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine-5-carboxylate were added 200 ml of tetrahydrofuran and. 200 ml of ethanol. While stirring under cooling with ice water, 54 ml of a 1N aqueous solution of sodium hydroxide were added to the mixture, and stirring was continued for 1 hour at the same temperature. Furthermore, 500 ml of a 1:1 mixed solvent of tetrahydrofuran and ethanol were added, and the resultant mixture was stirred at the same temperature for a while. The reaction mixture was then acidified with concentrated hydrochloric acid, and insoluble solids were collected by filtration, washed with water and dried to give 9.09 g (yield: 91.04%) of the intended compound.

reactant | ethyl 3-cyano-8-cyclopentyl-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine-5-carboxylate | 30.73 mmol, 10.00 g | C(#N)C=1C=NN2C1N=C(C1=C2N(CC1)C1CCCC1)C(=O)OCC | C17H19N5O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-cyano-8-cyclopentyl-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine-5-carboxylic acid | 9.09 g, yield: 91.04% | C(#N)C=1C=NN2C1N=C(C1=C2N(CC1)C1CCCC1)C(=O)O | C15H15N5O2
